US06900215B2
3-Bromo-7-(2,2,4-trimethyl-[1,3]dioxolan-4-yl)imidazo[1,2-α]pyrimidine was coupled with 3-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine as described in Example 65 to give 3-[4-fluoro-3-(pyridin-3-yl)phenyl]-7-(2,2,4-trimethyl-[1,3]dioxolan-4-yl)imidazo[1,2-α]pyrimidine as an orange oil: δH (400 MHz, d6-DMSO) 1.33 (3H, s), 1.47 (3H, s), 1.59 (3H, s), 4.08 (1H, d, J 9), 4.49 (1H, d, J 9), 7.31 (1H, d, J 7), 7.54-7.59 (2H, m), 7.77-7.81 (1H, m), 7.94 (1H, dd, J 7 and 2), 8.01 (1H, s), 8.09-8.12 (1H, m), 8.65 (1H, dd, J 5 and 2), 8.89 (1H, s), 9.08 (1H, d, J 7).

reactant | 3-Bromo-7-(2,2,4-trimethyl-[1,3]dioxolan-4-yl)imidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C2(OC(OC2)(C)C)C | C12H14BrN3O2
reactant | 3-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC=CC1 | C17H19BFNO2
product | 3-[4-fluoro-3-(pyridin-3-yl)phenyl]-7-(2,2,4-trimethyl-[1,3]dioxolan-4-yl)imidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C2(OC(OC2)(C)C)C)C=2C=NC=CC2 | C23H21FN4O2
